US04820734
A solution of 6.8 g (121 mmol) of potassium hydroxide in 40 ml of water is added dropwise while cooling within about 30 minutes to a solution of 28.2 g (100 mmol) of rac-(2S*)-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexanone in 200 ml of methanol so that the temperature does not exceed 5°. An ice-cold solution of 2.85 g (75 mmol) of sodium borohydride in 20 ml of water is subsequently added dropwise, whereupon the mixture is stirred at 0° for 3 hours. After treatment with 12 ml of acetic acid the solvent is distilled off. The residue obtained is treated with water, whereupon the mixture is extracted twice with 200 ml of ether each time. The organic phase is washed with water, dried over magnesium sulphate and evaporated. The oil obtained is taken up in ether/pentane, left to stand in a refrigerator and the crystalline product obtained is recrystallized from ether/hexan. There is obtained rac-(1S*)-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexanol of m.p. 82°-84°.

reactant | potassium hydroxide | 121 mmol, 6.8 g | [OH-].[K+]
reactant | rac-(2S*)-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexanone | 100 mmol, 28.2 g | ClC1=CC=C([C@H](C[N+](=O)[O-])C2C(CCCC2)=O)C=C1 | C14H16ClNO3
reactant | sodium borohydride | 75 mmol, 2.85 g | [BH4-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | ether pentane | CCOCC.CCCCC
product | rac-(1S*)-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexanol | ClC1=CC=C([C@H](C[N+](=O)[O-])C2C(CCCC2)O)C=C1 | C14H18ClNO3
